US08455491B2
Step 3.1. 6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazine
The mixture of 13.0 g (82.5 mmol) of 6-chloro-4,5-dimethylpyridazin-3-ylamine and 23.2 g (107 mmol) of 2-bromo-1-(4-fluorophenyl)ethanone in 130 ml of ethanol is refluxed for 16 hours. The solvent is evaporated off under reduced pressure, and the residue is taken up with chloroform and washed with a dilute solution of aqueous ammonia. The organic phase is dried over sodium sulfate and then concentrated under reduced pressure. The brown solid obtained is triturated in acetone, to give 19.2 g of a beige powder after filtration and drying.

reactant | 6-chloro-4,5-dimethylpyridazin-3-ylamine | 82.5 mmol, 13.0 g | ClC1=C(C(=C(N=N1)N)C)C | C6H8ClN3
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 107 mmol, 23.2 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazine | 19.2 g | ClC=1C(=C(C=2N(N1)C=C(N2)C2=CC=C(C=C2)F)C)C | C14H11ClFN3
